US09303033B2
(Z)-Tert-butyl cyclopropyl(3-((2,5-dioxoimidazolidin-4-ylidene)methyl)-6-(phenylethynyl)imidazo[1,2-a]pyrazin-8-yl)carbamate (12 mg, 0.03 mmol) was dissolved in dichloromethane (0.3 mL) and trifluoroacetic acid (0.3 mL). After 1 h, the solution was concentrated under a stream of air. The residue was triturated with Et2O and filtered to yield (Z)-5-((8-(cyclopropylamino)-6-(phenylethynyl)imidazo[1,2-a]pyrazin-3-yl)methylene)imidazolidine-2,4-dione (6 mg, 63%) as a bright yellow solid.

reactant | (Z)-Tert-butyl cyclopropyl(3-((2,5-dioxoimidazolidin-4-ylidene)methyl)-6-(phenylethynyl)imidazo[1,2-a]pyrazin-8-yl)carbamate | 0.03 mmol, 12 mg | C1(CC1)N(C(OC(C)(C)C)=O)C=1C=2N(C=C(N1)C#CC1=CC=CC=C1)C(=CN2)\C=C\2/NC(NC2=O)=O | C26H24N6O4
solvent | dichloromethane | 0.3 mL | ClCCl | CH2Cl2
solvent | trifluoroacetic acid | 0.3 mL | FC(C(=O)O)(F)F | C2HF3O2
product | (Z)-5-((8-(cyclopropylamino)-6-(phenylethynyl)imidazo[1,2-a]pyrazin-3-yl)methylene)imidazolidine-2,4-dione | 6 mg, 63% | C1(CC1)NC=1C=2N(C=C(N1)C#CC1=CC=CC=C1)C(=CN2)\C=C/2\C(NC(N2)=O)=O | C21H16N6O2
